### PR TITLE
[Merged by Bors] - feat(Algebra/FreeMonoid): set of symbols appearing in an element of the free monoid

### PR DESCRIPTION
**Pull request by hannahfechtner**
We add a separate file in which the set of symbols of a FreeMonoid element is defined. This is separated so that users of the basic FreeMonoid file need not unnecessarily import the finiteness hierarchy (as symbols is defined as a Finset)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/FreeMonoid/Symbols.lean [hunk 1]
```diff
@@ -0,0 +1,35 @@
+/-
+Copyright (c) 2024 Hannah Fechtner. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Author: Hannah Fechtner
```
Comment (adomani) [inline Mathlib/Algebra/FreeMonoid/Symbols.lean:4]:
```suggestion
Authors: Hannah Fechtner
```
I think that this is one of the linter's complaints.

Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Symbols.lean]: yup :) before it wasn't even getting to that, so this is some progress, at least!

File: Mathlib/Algebra/FreeMonoid/Symbols.lean [hunk 2]
```diff
@@ -0,0 +1,35 @@
...
+-/
+
+variable {α : Type*} [DecidableEq α]
+
+open FreeMonoid
+
+/-- the set of unique symbols in a free monoid element -/
+def symbols (a : FreeMonoid α) : Finset α := List.toFinset a
+
+@[to_additive (attr := simp)]
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Symbols.lean:23]: I'm confused what `to_additive` does here, if `symbols` itself hasn't been `to_additive`ized.
Could you please add the attribute to all declarations in this file?

**Review by jcommelin — COMMENTED** [review]
LGTM modulo one comment.

File: Mathlib/Algebra/FreeMonoid/Symbols.lean [hunk 3]
```diff
@@ -0,0 +1,35 @@
...
+
+/-!
+# The finite set of symbols in a FreeMonoid element
+
+This is separated from the main FreeMonoid file, as it imports the finiteness hierarchy
+-/
+
+variable {α : Type*} [DecidableEq α]
+
+open FreeMonoid
```
Comment (adomani) [inline Mathlib/Algebra/FreeMonoid/Symbols.lean:18]: I'm going to guess that this should be a `namespace`, rather than `open`.

As a consequence, the `to_additive` of `symbols` would have to be defined separately (I think that only theorems/lemmas are auto-generated by `to_additive`).

File: Mathlib/Algebra/FreeMonoid/Symbols.lean [hunk 4]
```diff
@@ -0,0 +1,35 @@
...
+
+theorem symbols_of {m : α} : symbols (of m) = {m} := rfl
+
+@[to_additive (attr := simp)]
+theorem symbols_mul {a b : FreeMonoid α} : symbols (a * b : FreeMonoid α) =
+    (symbols a) ∪ (symbols b) := by
+  simp only [symbols, List.mem_toFinset, Finset.mem_union]
+  apply List.toFinset_append
+
+theorem mem_symbols {m : α} {a : FreeMonoid α} : m ∈ symbols a ↔ m ∈ a :=
```
Comment (adomani) [inline Mathlib/Algebra/FreeMonoid/Symbols.lean:34]: If you `namespace` everything, then `to_additive` will generate an additivized name for this that will be `FreeAddMonoid.mem_symbols` or something like this, that will differ from the multiplicative name in the namespace and will not create a clash.

File: Mathlib/Algebra/FreeMonoid/Symbols.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/FreeMonoid/Symbols.lean:23]: If some definition hasn't been additivised, then it is simply kept invariant when translating

File: Mathlib/Algebra/FreeMonoid/Symbols.lean (hunk 3 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Symbols.lean]: aha! thank you so much, that was my error when separating this out from the main file

File: Mathlib/Algebra/FreeMonoid/Symbols.lean (hunk 2 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Symbols.lean:24]: I messed up - I used open instead of namespace, and then to resolve the errors, I fussed with the `to_additive`

It's fixed now! (thanks to adomani)

File: Mathlib/Algebra/FreeMonoid/Symbols.lean [hunk 5]
```diff
@@ -0,0 +1,40 @@
...
+
+@[to_additive (attr := simp)]
+theorem symbols_one : symbols (1 : FreeMonoid α) = ∅ := rfl
+
+@[to_additive (attr := simp)]
+theorem symbols_of {m : α} : symbols (of m) = {m} := rfl
+
+@[to_additive (attr := simp)]
+theorem symbols_mul {a b : FreeMonoid α} : symbols (a * b : FreeMonoid α) =
+    (symbols a) ∪ (symbols b) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/FreeMonoid/Symbols.lean:32]:
```suggestion
theorem symbols_mul {a b : FreeMonoid α} : symbols (a * b) = symbols a ∪ symbols b := by
```

File: Mathlib/Algebra/FreeMonoid/Symbols.lean [hunk 6]
```diff
@@ -0,0 +1,40 @@
...
+Authors: Hannah Fechtner
+-/
+
+import Mathlib.Algebra.FreeMonoid.Basic
+import Mathlib.Data.Finset.Basic
+
+/-!
+# The finite set of symbols in a FreeMonoid element
+
+This is separated from the main FreeMonoid file, as it imports the finiteness hierarchy
```
Comment (YaelDillies) [inline Mathlib/Algebra/FreeMonoid/Symbols.lean:13]: I still don't quite buy that argument, @jcommelin. The only extra thing it imports is `Finset`. If that's too much, then we should be working on it rather than artificially splitting later files

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
